US07579351B2
9-(3-Chloro-propoxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one
The title compound was synthesized in analogy to example 2, intermediate, from 9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one (example 15, intermediate a)), potassium carbonate and 1-bromo-3-chloropropane, to give the desired compound as a light yellow solid (35%).

reactant | 9-hydroxy-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | OC1=CC=2C=C3N(C2C=C1)CCCNC3=O | C12H12N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
product | 9-(3-Chloro-propoxy)-2,3,4,5-tetrahydro-[1,4]diazepino[1,2-a]indol-1-one | 35% | ClCCCOC1=CC=2C=C3N(C2C=C1)CCCNC3=O | C15H17ClN2O2
